US06211170B1
Following the same procedure as in example 4, step D, but using 4-(phenylsulfanylmethyl)azetidin-2-one and (pyridin-4-ylmethyl)carbamic acid phenyl ester as reactants gave 2-oxo-4(R)-(phenylsulfanylmethyl)azetidine-1-carboxylic acid (pyridin-4-ylmethyl)amide as a white solid.

reactant | 4-(phenylsulfanylmethyl)azetidin-2-one | C1(=CC=CC=C1)SCC1CC(N1)=O | C10H11NOS
reactant | (pyridin-4-ylmethyl)carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NCC1=CC=NC=C1)=O | C13H12N2O2
product | 2-oxo-4(R)-(phenylsulfanylmethyl)azetidine-1-carboxylic acid (pyridin-4-ylmethyl)amide | N1=CC=C(C=C1)CNC(=O)N1C(C[C@@H]1CSC1=CC=CC=C1)=O | C17H17N3O2S
